US07528147B2
N-(2,4-Dimethoxybenzyl)-N-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]-4-trifluoromethoxybenzenesulfonamide is prepared as described in Example 179a starting with 0.070 g of N-(2,4-dimethoxybenzyl)-N-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]-4-trifluoromethoxybenzenesulfonamide instead of the [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl](4-trifluoromethylsulfanylbenzyl)amine used in Example 179a and 0.40 cm3 of 5N potassium hydroxide. 0.030 g of N-(2,4-dimethoxybenzyl)-N-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]-4-trifluoromethoxybenzenesulfonamide is obtained, the characteristics of which are as follows:

reactant | N-(2,4-dimethoxybenzyl)-N-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]-4-trifluoromethoxybenzenesulfonamide | 0.070 g | COC1=C(CN(S(=O)(=O)C2=CC=C(C=C2)OC(F)(F)F)CC2=C3C(=NC=C2)N(C(=C3)C3=CN(C2=CC(=C(C=C32)OC)OC)C)S(=O)(=O)C3=CC=C(C=C3)C)C=CC(=C1)OC | C42H39F3N4O9S2
reactant | potassium hydroxide | 5N, 0.40 cm3 | [OH-].[K+]
product | N-(2,4-dimethoxybenzyl)-N-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]-4-trifluoromethoxybenzenesulfonamide | 0.030 g | COC1=C(CN(S(=O)(=O)C2=CC=C(C=C2)OC(F)(F)F)CC2=C3C(=NC=C2)NC(=C3)C3=CN(C2=CC(=C(C=C32)OC)OC)C)C=CC(=C1)OC | C35H33F3N4O7S
